Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
vomiting
 
Major Surgical or Invasive Procedure:
Low transverse cesarean section for failed induction of labor 
and severe pre-eclampsia

 
History of Present Illness:
___ y/o G3P0020 ___ ___ presents to triage with uncontrolable 
vomiting since ___ this morning. She has had several admission 
secondary to severe gastritis and abd pain with GI consult. The 
work up was significant for gallbladder sludge and GERD/severe 
gastritis and subsequent panic/anxiety/depression. She was seen 
by psychiatry during admissions, recommended klonopin (longer 
acting than ativan) and SSRI with Haldol PRN. Her out patient 
medications include Acetaminophen ___ mg PO Q6H:PRN pain, 
Promethazine 25 mg PO Q6H:PRN n/v, Prochlorperazine 10 mg PO 
Q6H:PRN n/v, Ondansetron 4 mg PO Q8H:PRN n/v, Pantoprazole 40 mg 
PO Q24H, Lorazepam 0.5 mg PO BID:PRN anxiety/pain. She states 
that she took protonix, compazine and pepcid that morning at 
0630.

Pt arrived via ambulance.
 
Past Medical History:
PNC
___ ___ by LMP (___) c/w 11wk U/S
- Labs: O-/Ab-,GC/CT-,RPRnr,RI,HbsAg-,HIV-,Hbg 100%A
- LR quad
- FFS nl
- hx Chlamydia in ___ tri, pt/partner treated, neg test of 
re-infection (___)
- GERD/gastritis/freq abd pain
  - s/p admission ___,
    and ___
  - ___ neg  
  - ___ GI consult
  - ___ US: GB sludge, no cholecystitis or gallstones  
  - ___ abd/pelvis: no pathology  
  - ___ -> c/w severe gastritis; nl biopsies
- Psych: panic/anxiety/depression. seen by psychiatry during 
admissions, recommended klonopin (longer acting than ativan) and
SSRI with Haldol PRN

OBHx: G3P0
-SAB x 2 requiring D&C

GynHx: denies history of abnormal paps or fibroids, + Chlamydia
(first trimester)

PMH: GERD and gastritis

PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
BP 133/112 (vomiting) with a repeat of 138/79
HR 87, RR 20, temp 98.3 po

FHT 135 ___, pos accels, no decels, mod var, reactive.
TOCO initially contractions q ___ now none
 
Pertinent Results:
Admission labs (___):

WBC-14.4* RBC-3.50* Hgb-10.2* Hct-30.2* MCV-86 MCH-29.2 
MCHC-33.8 RDW-14.8 Plt ___
Glucose-92 UreaN-4* Creat-0.6 Na-139 K-4.1 Cl-106 HCO3-17* 
ALT-13 AST-22 AlkPhos-100 Amylase-53 TotBili-0.6
Calcium-9.5 Phos-2.7 Mg-1.4* UricAcd-4.8

F/u labs:
___ WBC-10.9 RBC-3.19* Hgb-9.3* Hct-27.3* MCV-86 MCH-29.2 
MCHC-34.1 RDW-14.0 Plt ___
___ Creat-0.5
___ ALT-19 AST-24 UricAcd-6.9*
24 hour urine (___): Prot-828

___ 08:13AM BLOOD ALT-53* AST-42* TotBili-0.___ y/o G3P0 admitted at ___ with nausea, vomtiting, and 
epigastric pain. She presented with symptoms similar to her 
previous admissions, however, was noted to have elevated blood 
pressures. Preeclampsia labs were normal. She was transferred to 
the antepartum floor for supportive care and a 24 hour urine 
collection. Her 24 hour urine returned positive with 828mg of 
protein.  Her blood pressures remained elevated and met criteria 
for severe.  At this time she also complained of a headache and 
visual changes and was sent to L&D for induction.

On L&D, she had a failed induction after cytotec, pitocin, and a 
foley bulb.  She was recommended a primary c-section to which 
she consented.  Please see operative note for full details.

Post-partum, she was placed on magnesium for 24 hours given her 
severe pre-eclampsia. Her blood pressures were persistently 
elevated to 150s/90s and thus she was started on oral labetolol 
200mg bid on post-partum day 0, with good control of blood 
pressures until discharge.

Post-partum, she was followed for the following other issues as 
well:
1. Gastritis: Immediately post-partum, the patient was not 
experiencing any gastric pain. She was maintained on famotidine 
and protonix. By PPD3, she was complaining of increasing 
epigastric pain. She was given pepto-bismul and bicitra, which 
moderately helped her pain. By discharge, the pain was 
moderately well-controlled with all four agents and percocet. 
She is to follow-up with the GI doctors ___ Dr. 
___ regarding her pain.

2. Polyuria: The patient's urine output on labor and delivery 
was noted to be as high as a liter an hour. The urine Osms and 
serum Osms were within normal limits, with no concern for 
diabetes insipidus. A nephrology consult was placed, and the 
team recommended a water deprivation test. This test was 
attempted, but was limited ___ to patient non-compliance with 
the test. It did show a reassuring trend for etiology as primary 
polydipsia, with increasing serum Osm with water restriction. 
The patient's thirst decreased and she began to drink less and 
have more normal urine output by PPD4.
 
3. Pysch: The patient was restarted on celexa 30mg qd 
post-partum and discharged on her home regimen of 20mg qd 
post-partum. She did not require any additional psychotropic 
medications while immediately post-partum. Social work followed 
closely.  

4. General postpartum care: The patient's baby was found to have 
Rh neg blood, and thus thus patient received RhoGAM. She also 
received a TdAP. There were no other post-partum issues.
 
Medications on Admission:
promethazine
protonix
compazine
pepcid
lorazepam
 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
2. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*2
3. Labetalol 200 mg PO BID 
hold for BP < 110/60, HR < 60 
RX *labetalol 200 mg 1 tablet(s) by mouth twice a day Disp #*84 
Tablet Refills:*0
4. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2
5. Famotidine 40 mg PO DAILY 
RX *famotidine 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2
6. ValACYclovir 500 mg PO Q24H 
RX *valacyclovir 500 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*1
7. Bismuth Subsalicylate ___ mL PO TID:PRN upset stomach 
Over the counter available as PeptoBismol 
RX *Pepto-Bismol 262 mg/15 mL ___ mL by mouth three times a 
day Disp #*1 Bottle Refills:*2
8. Sucralfate 1 gm PO QID 
RX *Carafate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*60 Tablet Refills:*3
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4hrs Disp #*50 Tablet 
Refills:*0
10. Acetaminophen ___ mg PO Q6H:PRN [ain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pregnancy, delivered
Pre-eclampsia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)  
No heavy lifting for 6 weeks  
Do not drive while taking Oxycodone  
Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
Do not take ibuprofen, it will upset your stomach 
Please call if you develop shortness of breath, dizziness, 
palpitations, fever of 101 or above, abdominal pain, increased 
redness or drainage from your incision, nausea/vomiting, heavy 
vaginal bleeding, or any other concerns.
 
Followup Instructions:
___